US06417215B1
a) 2-Hydroxy-5-bromobenzonitrile
To a stirred, cooled (−20° C.) solution of 2-cyanophenol (30 g, 252 mmole) in dried MeCN (400 mL) was added HBF4.Et2O (45 g, 277.1 mmole), and N-bromosuccinimide (53.8 g, 302.3 mmole). After addition was completed, the mixture was warmed to RT, and stirred in 4 h. The mixture was cooled and quenched by 50% aqueous NaHSO3. The mixture was concentrated to removed excess of MeCN. The off-white solid thus obtained was filtered and dried by air (42.4 g, 85%). 1H-NMR (300 MHz, DMSO-d6): δ6.99 (d, J=8.9 Hz, 1H), 7.67 (dd, J=2.5, 8.9 Hz,1H), 7.88 (d, J=2.5 Hz,1H).

reactant | 2-cyanophenol | 252 mmole, 30 g | C(#N)C1=C(C=CC=C1)O | C7H5NO
reactant | HBF4 | [H+].[B-](F)(F)(F)F
reactant | Et2O | 277.1 mmole, 45 g | CCOCC | C4H10O
reactant | N-bromosuccinimide | 302.3 mmole, 53.8 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | MeCN | 400 mL | CC#N | C2H3N
product | 2-Hydroxy-5-bromobenzonitrile | OC1=C(C#N)C=C(C=C1)Br | C7H4BrNO
